US05026856
10(5-methoxycarbonyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid
142 mg of 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid, 109 mg of 5-methoxycarbonylisoindoline hydrochloride, 228 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 45 mg of the target compound.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 142 mg | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 5-methoxycarbonylisoindoline hydrochloride | 109 mg | Cl.COC(=O)C=1C=C2CNCC2=CC1
reactant | DBU | 228 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 10(5-methoxycarbonyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | 45 mg | COC(=O)C=1C=C2CN(CC2=CC1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C23H19FN2O6
